US08455656B2
3-[5-(3-Diethylamino-propyl)-3,3-dimethyl-3H-isobenzofuran-1-ylidene]-5-fluoro-1,3-dihydro-indol-2-one
A solution of methanesulfonic acid 3-[1-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-3,3-dimethyl-1,3-dihydro-isobenzofuran-5-yl]-propyl ester (170 mg, 0.39 mmol) and diethylamine (0.30 ml, 2.92 mmol) in dioxane (1.6 ml) was heated at 75° C. in a pressure tube for 36 hours. The mixture was evaporated, dissolved in EtOAc, and the EtOAc washed with H2O and brine. The aqueous layer was also extracted with CHCl3. The organic layers were combined, dried over anhydrous Na2SO4, and then evaporated to a yellow film. The sample was passed through a plug of silica gel eluting with 10% methanol in CHCl3 to give a yellow-orange solid. The solid was dissolved in EtOAc, washed with saturated aqueous NaHCO3, brine, dried over anhydrous Na2SO4, and evaporated to a yellow solid. The solid was chromatographed eluting with CHCl3/MeOH to give the title compound as a yellow solid (88 mg, 54%).

reactant | methanesulfonic acid 3-[1-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-3,3-dimethyl-1,3-dihydro-isobenzofuran-5-yl]-propyl ester | 0.39 mmol, 170 mg | FC=1C=C2C(C(NC2=CC1)=O)=C1OC(C2=CC(=CC=C12)CCCOS(=O)(=O)C)(C)C | C22H22FNO5S
reactant | diethylamine | 2.92 mmol, 0.30 ml | C(C)NCC | C4H11N
solvent | dioxane | 1.6 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[5-(3-Diethylamino-propyl)-3,3-dimethyl-3H-isobenzofuran-1-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 88 mg, 54% | C(C)N(CCCC=1C=C2C(OC(C2=CC1)=C1C(NC2=CC=C(C=C12)F)=O)(C)C)CC | C25H29FN2O2
